US06784137B2
Sodium borohydride (173 mg, 4.60 mmol) was added to a mixture of methyl 4,5,6-trichloropyridine-2-carboxylate (1.0 g, 4.16 mmol) in methanol (25 mL) at room temperature. After 40 min, the reaction was warmed to 50° C., and additional sodium borohydride (307 mg, 8 mmol) was added in 2 batches over the following 3 hours. The methanol was removed by rotary evaporation and the residue was diluted with 10% citric acid, aq. (50 mL) and stirred vigorously. The precipitate was collected, washed with water and dried to provide (4,5,6-trichloropyridin-2-yl)methanol (713 mg, 3.34 mmol), mp 82-83° C.

reactant | Sodium borohydride | 4.60 mmol, 173 mg | [BH4-].[Na+]
reactant | methyl 4,5,6-trichloropyridine-2-carboxylate | 4.16 mmol, 1.0 g | ClC1=CC(=NC(=C1Cl)Cl)C(=O)OC | C7H4Cl3NO2
reactant | sodium borohydride | 8 mmol, 307 mg | [BH4-].[Na+]
solvent | methanol | 25 mL | CO | CH4O
product | (4,5,6-trichloropyridin-2-yl)methanol | 3.34 mmol, 713 mg | ClC1=CC(=NC(=C1Cl)Cl)CO | C6H4Cl3NO
